### PR TITLE
[Merged by Bors] - feat: more API for iteratedFDeriv

### PR DESCRIPTION
**Pull request by sgouezel**
Notably, `iteratedFDeriv` commutes with composition with a translation

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/ContDiff/Defs.lean [hunk 1]
```diff
@@ -1149,9 +1168,16 @@ theorem contDiff_omega_iff_analyticOnNhd :
...
+    HasFTaylorSeriesUpTo n f (ftaylorSeries 𝕜 f) := by
+  simp only [← contDiffOn_univ, ← hasFTaylorSeriesUpToOn_univ_iff, ← ftaylorSeriesWithin_univ]
+    at hf ⊢
+  exact ContDiffOn.ftaylorSeriesWithin hf uniqueDiffOn_univ
 
-/-- When a function is `C^n` in a set `s` of unique differentiability, it admits
-`ftaylorSeriesWithin 𝕜 f s` as a Taylor series up to order `n` in `s`. -/
+/-- For `n : ℕ∞`, a function is `C^n` iff it admits `ftaylorSeries 𝕜 f`
+as a Taylor series up to order `n`. -/
 theorem contDiff_iff_ftaylorSeries {n : ℕ∞} :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/ContDiff/Defs.lean:1181]: I guess the lack of WithTop here means you can't reuse the new lemma for one direction?

File: Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean [hunk 2]
```diff
@@ -622,6 +630,30 @@ theorem HasFTaylorSeriesUpToOn.eq_iteratedFDerivWithin_of_uniqueDiffOn
...
+/-- The iterated derivative commutes with shifting the function by a constant on the left. -/
+lemma iteratedFDerivWithin_comp_add_left (n : ℕ) (a : E) :
+    iteratedFDerivWithin 𝕜 n (fun z ↦ f (a + z)) s =
+      fun x ↦ iteratedFDerivWithin 𝕜 n f (a +ᵥ s) (a + x) := by
+  induction n with
+  | zero => simp [iteratedFDerivWithin]
+  | succ n IH =>
+    ext v
+    rw [iteratedFDerivWithin_succ_eq_comp_left, iteratedFDerivWithin_succ_eq_comp_left]
+    simp [IH]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean:642]: Squeeze please

File: Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean [hunk 3]
```diff
@@ -622,6 +630,30 @@ theorem HasFTaylorSeriesUpToOn.eq_iteratedFDerivWithin_of_uniqueDiffOn
 alias HasFTaylorSeriesUpToOn.eq_ftaylor_series_of_uniqueDiffOn :=
   HasFTaylorSeriesUpToOn.eq_iteratedFDerivWithin_of_uniqueDiffOn
 
+/-- The iterated derivative commutes with shifting the function by a constant on the left. -/
+lemma iteratedFDerivWithin_comp_add_left (n : ℕ) (a : E) :
+    iteratedFDerivWithin 𝕜 n (fun z ↦ f (a + z)) s =
+      fun x ↦ iteratedFDerivWithin 𝕜 n f (a +ᵥ s) (a + x) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean:636]: It strikes me as a bit odd that these statements are not applied further, but fine if this is more useful. (Or maybe have both?)

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

File: Mathlib/Analysis/Calculus/ContDiff/Defs.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Analysis/Calculus/ContDiff/Defs.lean:1181]: No, I do reuse the new lemma for one direction. In fact, the new lemma is just one implication of the old lemma, which happens to hold with a more general assumption (`WithTop ℕ∞` instead of `ℕ∞`)

File: Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean (hunk 3 above)
Comment (sgouezel) [reply Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean:636]: Indeed, the unapplied version is useful in the proof, but I agree the applied version is maybe more natural. I've added both.

**Review by jcommelin — COMMENTED** [review]
LGTM modulo merge conflict

bors d+
